US07482356B2
Preparation of 1-oxo-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid 2-chloro-benzylamide (17):
To a solution of phenol (0.09 g, 1.00 mmol) in THF (2 mL) is added sodium hydride (0.05 g of a 60% dispersion in mineral oil, 0.80 mmol). After stirring 5 min at room temperature a solution of 3-(2-methanesulfonyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid 2-chloro-benzylamide, 16, (0.18 g, 0.40 mmol) in THF (3 mL) is added to the reaction mixture. After stirring 1.5 h at room temperature, the mixture is diluted with aqueous saturated NaHCO3. The aqueous phase is extracted with CHCl3 (×3). The combined organic phases are washed with aqueous saturated NaHCO3, dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified over silica (5% MeOH/CHCl3) to afford 110 mg of the desired product as a white solid: 1H NMR (300 MHz, CDCl3) δ 9.59 (bd s, NH), 8.75 (d, J=5.1 Hz, 1H), 8.49 (d, J=7.2 Hz, 1H), 7.49-7.20 (m, 9H), 4.72 (d, J=5.4 Hz, 2H), 4.04 (t, J=7.2 Hz, 2H), 3.98 (t, J=7.2 Hz, 2H), 2.57 (dddd, J=6.9, 6.9, 6.9, 6.9 Hz, 2H); ESI+ MS: m/z (rel intensity) 462.1 (100, M++H); HRMS m/z calcd for C24H20ClN5O3 (M+H+) 462.1333, found 462.1320.

reactant | phenol | 1.00 mmol, 0.09 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
reactant | 3-(2-methanesulfonyl-pyrimidin-4-yl)-1-oxo-6,7-dihydro-1H,5H-pyrazolo[1,2-a]pyrazole-2-carboxylic acid 2-chloro-benzylamide | ClC1=C(CNC(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)S(=O)(=O)C)C=CC=C1 | C19H18ClN5O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-oxo-3-(2-phenoxy-pyrimidin-4-yl)-6,7-dihydro-1H,5H-pyrazolo[1,2-α]pyrazole-2-carboxylic acid 2-chloro-benzylamide | 110 mg | ClC1=C(CNC(=O)C2=C(N3N(CCC3)C2=O)C2=NC(=NC=C2)OC2=CC=CC=C2)C=CC=C1 | C24H20ClN5O3
